US07875625B2
2-Formylcycloheptanone (Reference Compound 1)
In an argon atmosphere, sodium hydride (60%; 55.2 g, 1.38 mol) was suspended in ether (2 L), and ethanol (2.5 mL) was added thereto at room temperature. Then, a liquid mixture of cycloheptanone (141 g, 1.26 mol) and ethyl formate (152 mL, 1.84 mol) was added dropwise to the mixture over 2 hours, and the resulting mixture was stirred at the same temperature for 20 hours. Ethanol (25 mL) was added to the reaction solution, subsequently water (1.2 L) was added, and the mixture was separated. The resultant was extracted with a 10% (w/v) aqueous solution of sodium hydroxide, and then the aqueous layers were combined and washed with ether. 15% (v/v) hydrochloric acid was added to the aqueous layer under ice cooling to adjust the aqueous layer to pH 3 to 4, and then the mixture was extracted twice with ether, washed with saturated solution of sodium chloride, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and thus the title compound (174 g, 99%) was obtained as a pale orange oil.

reactant | sodium hydride | 1.38 mol, 55.2 g | [H-].[Na+]
reactant | ethanol | 2.5 mL | C(C)O | C2H6O
reactant | cycloheptanone | 1.26 mol, 141 g | C1(CCCCCC1)=O | C7H12O
reactant | ethyl formate | 1.84 mol, 152 mL | C(=O)OCC | C3H6O2
reactant | Ethanol | 25 mL | C(C)O | C2H6O
solvent | ether | 2 L | CCOCC | C4H10O
solvent | water | 1.2 L | O | H2O
product | 2-Formylcycloheptanone | 174 g, 99% | C(=O)C1C(CCCCC1)=O | C8H12O2
